US06333291B1
Synthesis of 3,3′-Dibromo-1,1′-trimethylenedioxydibenzene
In a stream of nitrogen, 100 ml of a dimethylformamide (to be referred to as DMF hereinafter) solution containing 20.03 g (115.8 mmol) of 3-bromophenol was cooled to 5° C. and mixed with 4.9 g (122 mmol) of 60% sodium hydride. After 1 hour of stirring at room temperature, this was mixed with 25 ml of a DMF solution containing 11.5 g (57 mmol) of trimethylene dibromide and stirred at 70° C. for 20 hours. The reaction solution was extracted with 800 ml of ethyl acetate and washed with water (200 ml, 5 times) and saturated brine (100 ml, twice). The organic layer was dried with anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. By purifying the residue by a silica gel column chromatography, 13.70 g (yield 62%) of the title compound was obtained as a colorless oil.

reactant | 3-bromophenol | 115.8 mmol, 20.03 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | sodium hydride | 122 mmol, 4.9 g | [H-].[Na+]
reactant | trimethylene dibromide | 57 mmol, 11.5 g | C(CCBr)Br | C3H6Br2
solvent | DMF | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3,3′-Dibromo-1,1′-trimethylenedioxydibenzene | 13.70 g, yield 62% | BrC(CCOC1=CC(=CC=C1)Br)OC1=CC=CC=C1 | C15H14Br2O2
